US04011230
As in Example 17, reaction of o-chloro-β-nitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave o-chloro-α-(nitromethyl)benzyl dimethyldithiocarbamate melting at 102° C.-103.5° C. when recrystallized without heating from acetone-methanol solution.

reactant | o-chloro-β-nitrostyrene | ClC1=C(C=C[N+](=O)[O-])C=CC=C1 | C8H6ClNO2
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | o-chloro-α-(nitromethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=C(C=CC=C1)Cl)C[N+](=O)[O-])=S)C | C11H13ClN2O2S2
